US06869954B2
Preparation of 4-dimethylaminomethyl-2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a slightly-yellow crystalline powder (yield: 60.8%).

reactant | 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=CC=C(CN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=C1 | C20H18F2N2O5S
reactant | dimethylamine | CNC | C2H7N
product | 4-dimethylaminomethyl-2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 60.8% | CN(C)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1=CC=C(C=C1)F)=O | C21H21F2N3O2
